US06608049B2
25 mg of palladium/carbon (10%) are suspended in a solution of 175 mg (0.538 mmol) of 5-(2,6-dimethyl-4-nitrophenoxy)-3-isopropyl-1H-indazole in 10 ml of ethanol. The mixture is shaken under a hydrogen atmosphere at 3 bar for 4 h, then filtered off through kieselguhr, the filtrate is concentrated in vacuo and the residue is purified on silica gel (cyclohexane/ethyl acetate 2:1). 50 mg (31%) of 5-(4-amino-2,6-dimethylphenoxy)-3-isopropyl-1H-indazole are obtained.

reactant | 5-(2,6-dimethyl-4-nitrophenoxy)-3-isopropyl-1H-indazole | 0.538 mmol, 175 mg | CC1=C(OC=2C=C3C(=NNC3=CC2)C(C)C)C(=CC(=C1)[N+](=O)[O-])C | C18H19N3O3
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 25 mg | [Pd] | Pd
product | 5-(4-amino-2,6-dimethylphenoxy)-3-isopropyl-1H-indazole | 50 mg, 31% | NC1=CC(=C(OC=2C=C3C(=NNC3=CC2)C(C)C)C(=C1)C)C | C18H21N3O
